US07842688B2
e) Benzyl 4-[4-(1-tert-butoxycarbonylazetidin-3-yloxy)phenyl]-3-hydroxypiperidine-1-carboxylate
Analogously to Method I, 9.170 g of benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidinecarboxylate and 11.00 g of tert-butyl 3-(toluenesulphonyloxy)azetidine-1-carboxylate are reacted. The title compound is obtained as a yellow oil. Rf=0.23 (3:1 EtOAc-heptane); Rt=5.01.

reactant | benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidinecarboxylate | 9.170 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OCC1=CC=CC=C1 | C19H21NO4
reactant | tert-butyl 3-(toluenesulphonyloxy)azetidine-1-carboxylate | 11.00 g | C=1(C(=CC=CC1)S(=O)(=O)OC1CN(C1)C(=O)OC(C)(C)C)C | C15H21NO5S
product | Benzyl 4-[4-(1-tert-butoxycarbonylazetidin-3-yloxy)phenyl]-3-hydroxypiperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CC(C1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C27H34N2O6
